US06020342
1-Amino-7-methoxyisoquinoline
A solution of 8.0 g of 7-methoxyisoquinoline in 45 ml of N,N-dimethylaniline was warmed at 60° C., and then 5.9 g of sodium amide was added. The reaction mixture was heated at 130° C. over a period of 2 hours, and stirred for further 1 hour under the same conditions. After being cooled, the reaction mixture was poured into ice water and extracted with chloroform. The extract was washed with water, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel and recrystallized from benzene to give 5.7 g of the title compound as colorless flakes.

reactant | 7-methoxyisoquinoline | 8.0 g | COC1=CC=C2C=CN=CC2=C1 | C10H9NO
reactant | sodium amide | 5.9 g | [NH2-].[Na+]
solvent | N,N-dimethylaniline | 45 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 1-Amino-7-methoxyisoquinoline | 5.7 g | NC1=NC=CC2=CC=C(C=C12)OC | C10H10N2O
